US04959361
rac-2-{[6-(2-Fluorophenyl)-1-methyl-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazeoin-8-yl]ethynyl}-3.4-dihydro-2 ,5,7,8-tetramethyl-2H-1-benzopyran-6-ol
The title compound was prepared by coupling 6-(2-fluoro-phenyl)-8-iodo-1-methyl-4H-[1,2,4]triazolo[4,3-a][4,1]benzodiazepine with rac-2-ethynyl-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol [ref. H. Mayer et al., Helv. Chim. Acta, 67, 650 (1963)]under the conditions described in Example 37. The product was isolated by chromatography over the 50-fold amount of silica gel using 5% (v/v) of ethanol in methylene chloride. The clean fractions containing product were combined and evaporated. The residue was crystallized from ethanol/ethyl acetate to give colorless crystals of rac-2-{[6-(2-fluorophenyl)-1-methyl-4H-[1,2,4]triazolo[4,3-a][4,1]benzodiazepin-8-yl]ethynyl}-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol with m.p. 265°-267°.

reactant | 6-(2-fluoro-phenyl)-8-iodo-1-methyl-4H-[1,2,4]triazolo[4,3-a][4,1]benzodiazepine | FC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)I)C(=NN2)C | C17H12FIN4
reactant | rac-2-ethynyl-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol | C(#C)C1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C | C15H18O2
reactant | ethanol | C(C)O | C2H6O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | rac-2-{[6-(2-fluorophenyl)-1-methyl-4H-[1,2,4]triazolo[4,3-a][4,1]benzodiazepin-8-yl]ethynyl}-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol | FC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)C#CC3(OC1=C(CC3)C(=C(C(=C1C)C)O)C)C)C(=NN2)C | C32H29FN4O2
